US05159061
(I) Production of Boc-D-Arg(Tos)-Tyr(Bzl)-OBzl
Using 2.32 g Boc-Tyr(Bzl)-OBzl, 2.37 g Boc-D-Arg(Tos)-OH, 0.75 g HONB and 1.14 g DCC, the desired product was obtained in exactly the same manner as in Example 1-(I).

reactant | Boc-Tyr(Bzl)-OBzl | 2.32 g | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C28H31NO5
reactant | Boc-D-Arg(Tos)-OH | 2.37 g | N([C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)O)C(=O)OC(C)(C)C | C18H28N4O6S
reactant | HONB | 0.75 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 1.14 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Boc-D-Arg(Tos)-Tyr(Bzl)-OBzl | N([C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C41H49N5O8S
